US09399651B2
To a solution of crude 1-methoxy-3,5-dioxo-5-phenylpent-1-en-2-yl acetate (3.5 mmol) in toluene (35 mL) was added pyridinium j-toluenesulfonate (130 mg, 0.5 mmol). The reaction mixture was heated at reflux under a nitrogen atmosphere for 1 h before being cooled and concentrated under reduced pressure and purified by flash chromatography (80 g Si02, 0-100% ethyl acetate/hexanes gradient elution) to provide 4-oxo-6-phenyl-4H-pyran-3-yl acetate. LC/MS (M+H)+ 231.

reactant | 1-methoxy-3,5-dioxo-5-phenylpent-1-en-2-yl acetate | 3.5 mmol | C(C)(=O)OC(=COC)C(CC(C1=CC=CC=C1)=O)=O | C14H14O5
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 4-oxo-6-phenyl-4H-pyran-3-yl acetate | C(C)(=O)OC1=COC(=CC1=O)C1=CC=CC=C1 | C13H10O4
